US07417064B2
1-(Benzyl-methyl-amino)-4-methyl-pentan-3-ol
Using a method similar to that for 1-(Benzyl-methyl-amino)-5-methyl-hexan-3-ol, isopropylmagnesium chloride affords the title compound: mass spectrum (ion spray) m/z=222.1(M+1); 1H NMR (CDCl3) δ 7.34-7.23 (m, 5H), 6.21 (br s, 1H), 3.63 (d, 1H), 3.51-3.47 (m, 1H), 3.42 (d, 1H), 2.81-2.74 (m, 1H), 2.59-2.54 (m, 1H), 2.19 (s, 3H), 1.72-1.47 (m, 3H), 0.95 (d, 3H), 0.89 (d, 3H).

reactant | 1-(Benzyl-methyl-amino)-5-methyl-hexan-3-ol | C(C1=CC=CC=C1)N(CCC(CC(C)C)O)C | C15H25NO
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
product | 1-(Benzyl-methyl-amino)-4-methyl-pentan-3-ol | C(C1=CC=CC=C1)N(CCC(C(C)C)O)C | C14H23NO
